US05567716
gentamycin:
TLC: eluent chloroform/methanol/water/28% NH3 50:40:7:3; RF=0.67 (traumatic acid): eluent chloroform,/methanol/28% NH3 1:1:1 ninhydrin as indicator: three stains are observed like in gentamycin sulfate used as standard sample.

reactant | chloroform methanol water | C(Cl)(Cl)Cl.CO.O
reactant | traumatic acid | C(\C=C\CCCCCCCCC(=O)O)(=O)O | C12H20O4
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | ninhydrin | C1=CC=C2C(=C1)C(=O)C(C2=O)(O)O | C9H6O4
reactant | gentamycin sulfate | C[C@H]([C@@H]1CC[C@H]([C@H](O1)O[C@@H]2[C@H](C[C@H]([C@@H]([C@H]2O)O[C@@H]3[C@@H]([C@H]([C@@](CO3)(C)O)NC)O)N)N)N)N.C[C@H]([C@@H]1CC[C@H]([C@H](O1)O[C@@H]2[C@H](C[C@H]([C@@H]([C@H]2O)O[C@@H]3[C@@H]([C@H]([C@@](CO3)(C)O)NC)O)N)N)N)NC.C[C@@]1(CO[C@@H]([C@@H]([C@H]1NC)O)O[C@H]2[C@@H](C[C@@H]([C@H]([C@@H]2O)O[C@@H]3[C@@H](CC[C@H](O3)CN)N)N)N)O.OS(=O)(=O)O
solvent | methanol | CO | CH4O
product | gentamycin | CC(C1CCC(C(O1)OC2C(CC(C(C2O)OC3C(C(C(CO3)(C)O)NC)O)N)N)N)NC | C21H43N5O7
